US07423012B2
A solution of 2-butyl-3-ethoxycarbonyl-succinic acid diethyl ester (1 g, 3 mmol) and NaH (119 mg, 5 mmol) in DMF (20 ml) was stirred for 60 minutes at 0° C. under argon. (5-Bromomethyl-pyridin-2-yl)-carbamic acid tert-butyl ester (1.425 g, 5 mmol) was added and the mixture was stirred at room temperature for one week. Ethanol (1 ml) was added and the reaction was poured into H2O and extracted with ethyl acetate. The organic layer was washed with water and concentrated under reduced pressure. The product was purified by column chromatography (heptane/ethyl acetate, 4:1 to 1:1) to give 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-3-butyl-2-ethoxycarbonyl-succinic acid diethyl ester (1.2 g, 71.3%).

reactant | 2-butyl-3-ethoxycarbonyl-succinic acid diethyl ester | 3 mmol, 1 g | C(C)OC(C(C(C(=O)OCC)C(=O)OCC)CCCC)=O | C15H26O6
reactant | NaH | 5 mmol, 119 mg | [H-].[Na+]
reactant | (5-Bromomethyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 5 mmol, 1.425 g | C(C)(C)(C)OC(NC1=NC=C(C=C1)CBr)=O | C11H15BrN2O2
reactant | Ethanol | 1 ml | C(C)O | C2H6O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-3-butyl-2-ethoxycarbonyl-succinic acid diethyl ester | 1.2 g, 71.3% | C(C)OC(C(C(C(=O)OCC)CCCC)(C(=O)OCC)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C26H40N2O8
